US06858651B2
250 mg (0.59 mmol) trans-4-{4-[Methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-butyric acid in 7 ml CH2Cl2 were treated with 0.33 ml (2.95 mmol) NMM, 18 mg (0.12 mmol, 0.2 eq) HOBT, 147 mg (0.77 mmol, 1.3 eq) EDCI.hydrochloride and 127 mg (1.3 mmol, 2.2 eq) N-Methoxymethylamine.hydro-chloride. The mixture was stirred at RT for 3 h, was acidified by adding 1M KHSO4 and extracted with CH2Cl2. The combined organic phases were washed with brine, dried over Na2SO4 and evaporated to yield 260 mg (94%) trans-N-Methoxy-N-methyl-4-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-butyramide as light yellow oil, MS: 467 (MH+).

reactant | trans-4-{4-[Methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-butyric acid | 0.59 mmol, 250 mg | CN([C@@H]1CC[C@H](CC1)OCCCC(=O)O)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C18H24F3NO5S
reactant | NMM | 2.95 mmol, 0.33 ml | CN1CCOCC1 | C5H11NO
reactant | HOBT | 0.12 mmol, 18 mg, 0.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.77 mmol, 147 mg, 1.3 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | hydrochloride | Cl | ClH
reactant | N-Methoxymethylamine | 1.3 mmol, 127 mg, 2.2 eq | COCN | C2H7NO
reactant | KHSO4 | 1M | OS(=O)(=O)[O-].[K+]
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
product | trans-N-Methoxy-N-methyl-4-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-butyramide | 260 mg, 94% | CON(C(CCCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=O)C | C20H29F3N2O5S
